US08258144B2
To a mixture of N-benzyl-2-chloro-5-iodo-7-tosyl-7H-pyrrolo[2,3-d]pyrimidin-4-amine (300 mg, 0.557 mmol), pyridine-4-boronic acid (137 mg, 1.111 mmol) and Pd(Ph3P)2Cl2 (40 mg, 0.042 mmol) in dioxane (3 mL), aq. Na2CO3 (120 mg, 1.13 mmol) (1.0 mL) was added. The mixture was stirred at 100° C. for 4 h. It was concentrated in vacuo. The residue was purified by HPLC to give N-benzyl-2-chloro-5-(pyridin-4-yl)-7-tosyl-7H-pyrrolo[2,3-d]pyrimidin-4-amine (27 mg).

reactant | N-benzyl-2-chloro-5-iodo-7-tosyl-7H-pyrrolo[2,3-d]pyrimidin-4-amine | 0.557 mmol, 300 mg | C(C1=CC=CC=C1)NC=1C2=C(N=C(N1)Cl)N(C=C2I)S(=O)(=O)C2=CC=C(C)C=C2 | C20H16ClIN4O2S
reactant | pyridine-4-boronic acid | 1.111 mmol, 137 mg | N1=CC=C(C=C1)B(O)O | C5H6BNO2
reactant | Na2CO3 | 1.13 mmol, 1.0 mL, 120 mg | C(=O)([O-])[O-].[Na+].[Na+]
solvent | dioxane | 3 mL | O1CCOCC1 | C4H8O2
catalyst | Pd(Ph3P)2Cl2 | 0.042 mmol, 40 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | N-benzyl-2-chloro-5-(pyridin-4-yl)-7-tosyl-7H-pyrrolo[2,3-d]pyrimidin-4-amine | 27 mg | C(C1=CC=CC=C1)NC=1C2=C(N=C(N1)Cl)N(C=C2C2=CC=NC=C2)S(=O)(=O)C2=CC=C(C)C=C2 | C25H20ClN5O2S
